Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Recurrent lung cancer
 
Major Surgical or Invasive Procedure:
Cervical mediastinoscopy, redo left thoracotomy, completion left 
pneumonectomy, mediastinal lymph node dissection, bronchoscopy 
with bronchoalveolar lavage, pericardial fat pad buttress - 
___

Left thoracotomy with evacuation of hemothorax and ligation 
intercostal artery, excision of pericardial fat pad and 
placement of a pleural flap - ___

 
History of Present Illness:
Mr. ___ is an ___ year old male from ___ who presented 
for a second opinion of recurrent left lung cancer. He had 
similar symptoms in ___ and had a left lower lobe nodule 
requiring surgery with ultimately a completion left lower 
lobectomy with post op chemotherapy. He did well and was 
followed closely but symptoms of a cough recurred in ___. a 
left upper lobe mass was
discovered for which he underwent a posterior segmentectomy 
(pT1bNxMx). He recovered well and had been feeling well until a 
dry cough recurred 3 months ago. A chest CT showed a new 
retrohilar mass and this was PET positive.
Other than the cough he feels well. He's very active in 
___ work in his ___ complex and takes care of his 
wife who has ___ isease. He admits to slight DOE if he 
over exerts but generally has no problems. He has some general 
arthritic complaints but no specific bone pain.  He denies
hemoptysis, recent weight loss or shortness of breath.
 
Past Medical History:
PMH: Hypothyroid, BPV, Macular degeneration, Right breast 
cancer, recurrent left lung cancer

PSH: Right breast lumpectomy ___ ___iff ductal Ca with
post op Tamoxifen, Left lower lobe wedge resection with 
completion left lower lobectomy ___ for mod diff adeno ca, all 
nodes negative. Post op chemo; Posterior segmentectomy of left 
upper lobe ___ for adeno ca (mixed papillary/micropapillary 
45%, acinar 45%, solid 10%) pT1bNxMx; ___ x 2 (last ___ w/ 
mesh); S/P Right cataract excision w/ ___
 
Social History:
___
Family History:
Mother breast ___
Father  ___ No Ca
Offspring 3 healthy sons
 
Physical ___:
Physical exam on discharge: 
98.2  97.6  74  107/55  18  97%RA
Gen - AAO x 3 NAD
CV - RRR +S1/S2 no murmurs/rubs/gallops
P - CTA on right side, absence of breath sounds on left (to be 
expected s/p completion pneumonectomy)
Abd - soft/nontender/nondistended
Inc - clean/dry/intact, no erythema/drainage/induration
Ext - no edema/cyanosis/clubbing
 
Pertinent Results:
___ 06:55AM BLOOD WBC-8.3 RBC-4.39* Hgb-13.4* Hct-40.4 
MCV-92 MCH-30.5 MCHC-33.2 RDW-14.8 Plt ___
___ 06:55AM BLOOD Plt ___
___ 05:05AM BLOOD ___ PTT-28.1 ___
___ 06:55AM BLOOD Glucose-82 UreaN-16 Creat-0.8 Na-139 
K-4.2 Cl-102 HCO3-27 AnGap-14
___ 06:55AM BLOOD Calcium-8.4 Phos-3.3 Mg-1.9

CHEST X-RAY ___
As compared to the previous radiograph, there is no relevant 
change 
in appearance of the post-pneumonectomy left hemithorax.  The 
multiple 
air-fluid levels as well as the amount of air in the soft 
tissues is 
relatively constant.  The clips also in constant position.  
Unchanged normal appearance of the right lung. 

 
Brief Hospital Course:
Mr ___ was admitted to the ICU after his operation. His 
initial ___ was complicated by return to OR for hemothorax 
evacuation. After this, he returned to the ICU, but was able to 
be transferred to the floor on POD ___. His post-operative 
course may be described by systems as below:

Neuro: He was intubated/sedated after each of his operations. 
Once appropriate, he was extubated without issue. He was 
initially given IV pain medications for pain control, and 
transitioned to oral medications once appropriate. He tolerated 
this well.

CV: Required phenylephrine for blood pressure after first 
operation; this was successfully weaned. He once more required 
pressors again after second operation, also weaned without 
issue. After that, he remained hemodynamically stable throughout 
his stay. Due to the aforementioned times of hypotension and 
pressor requirement, Cardiology was consulted and MI was ruled 
out by means of serial EKGs and troponin checks. The patient was 
eventually diuresed gently due to his multiple fluid 
resuscitations with increased risk for CHF. He tolerated this 
well. He had no arrhythmias post op but was started on, and will 
continue on Diltiazem for afib prophylaxis for an additional 3 
weeks.

Pulm: He was extubated when appropriate post-operatively. On 
POD1, his chest tube output had decreased, then suddenly put out 
240 cc of serosanguinous output, then improved. The chest tube 
was removed. However, overnight POD1-2, there was concern for 
hemothorax on CXR and drop in Hct. A chest tube was placed and 
he returned to the operating room for an exploratory thoracotomy 
and evacuation of hematoma. Afterwards, he was once more 
extubated when appropriate. The chest tube was removed on POD 
___ and repeat CXR showed no PTX. His weight was elevated, so 
diuresis was begun with furosemide as mentioned above, till he 
returned to his pre-operative dry weight.

GI: He had emesis after each operation, thought to be likely due 
to anesthesia effect. Eventually, however, he tolerated a 
regular diet, though did have a decreased appetite. He was 
started on Marinol to assist with this. He had normal bowel 
movements throughout his stay.

GU: He initially had a foley catheter in place for close urine 
output monitoring. When appropriate, this was removed, and he 
voided successfully without issue.

Endo: no active issues

Heme: Aforementioned hematocrit drop required takeback to OR. 
Hct monitored closely after that, and remained stable 
throughout. 

ID: He received ___ antibiotics for prophylaxis.

The patient was doing well and discharged on ___. He will 
stay locally for approximately one week and then follow up with 
Dr. ___ prior to returning to ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Meclizine 12.5 mg PO DAILY:PRN dizziness 
2. Levothyroxine Sodium 25 mcg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
2. Levothyroxine Sodium 25 mcg PO DAILY 
3. Meclizine 12.5 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*20 Capsule Refills:*0
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
use for pain unrelieved by Tramadol 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0
6. Senna 1 TAB PO BID:PRN constipation 
7. Diltiazem 30 mg PO TID Duration: 3 Weeks 
RX *diltiazem HCl [Cardizem] 30 mg 1 tablet(s) by mouth three 
times a day Disp #*63 Tablet Refills:*0
8. TraMADOL (Ultram) 25 mg PO QID 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth four times 
a day Disp #*20 Tablet Refills:*0
9. Assistive device

Wheelchair

Dx: S/P left pneumonectomy
10. Dronabinol 2.5 mg PO BID 
RX *dronabinol 2.5 mg 1 capsule(s) by mouth twice a day Disp 
#*20 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Recurrent lung cancer
Hemothorax
Acute blood loss anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ Thoracic Surgical Service after 
your operation. You have done well in the hospital, and are 
prepared to complete your recovery outside the hospital, with 
the following instructions:

* Continue to use your incentive spirometer 10 times an hour 
while awake.
* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.
* Check your incisions daily, no dressings are needed as long as 
they remain dry.
* You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
 Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems.  Use a stool softener or gentle laxative to 
stay regular.
* No driving while taking narcotic pain medication.
* Take Tylenol  in between your narcotic.  
* Continue to stay well hydrated and eat well to heal your 
incisions
* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
* No tub bathing, swimming or hot tubs until incision healed
* No lotions or creams to incision site
* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

* We have started you on two new medications called Diltiazem 
and Dronabinol - please take these as prescribed. When you see 
Dr. ___ in clinic, he will determine if you need to keep 
taking these.
* You have been set up with ___ visiting nursing, as well as a 
wheelchair to help you get around. We do encourage you keep 
trying to ambulate yourself as much as possible. 

Call Dr. ___ ___ if you experience:
-Fevers > 101 or chills
-Increased shortness of breath, chest pain or any other symptoms 
that concern you.
 
Followup Instructions:
___